US05288750
3-Acetyl-4-(2-furyl)-3-buten-2-one
A solution containing 2.9g of furfural, 5.0 g of 2,4-pentanedione and 1 g of ammonium acetate in 25ml of 2-propanol was refluxed for 3 h. The solvent was evaporated in vacuo and the residue was purified by using column chromatography. Yellowish oil, yield 61%.

reactant | furfural | 2.9g | C(C1=CC=CO1)=O | C5H4O2
reactant | 2,4-pentanedione | 5.0 g | CC(CC(C)=O)=O | C5H8O2
reactant | ammonium acetate | 1 g | C(C)(=O)[O-].[NH4+]
solvent | 2-propanol | 25ml | CC(C)O | C3H8O
product | 3-Acetyl-4-(2-furyl)-3-buten-2-one | yield 61% | C(C)(=O)C(C(C)=O)=CC=1OC=CC1 | C10H10O3
